US07728129B2
4-(4-Isopropyl-piperazine-1-carbonyl)-benzaldehyde
To a suspension of hydroxy-[4-(4-isopropyl-piperazine-1-carbonyl) -phenyl]-methanesulfonic acid sodium salt (49.0 g, 135 mmol) in de-ionized H2O (490 mL) at 0° C. was added 1 N NaOH (100 mL) in 10 mL portions with vigorous stirring. A clear solution resulted (pH 12), which was stirred at 0° C. for 1 h, then at room temperature for 30 min. The aqueous solution was extracted with EtOAc (3×200 mL), followed by CH2Cl2 (3×200 mL). The organic layers were combined, washed with brine (1×300 mL), dried (Na2SO4) and concentrated to yield the title compound as a pale yellow oil.

reactant | hydroxy-[4-(4-isopropyl-piperazine-1-carbonyl) -phenyl]-methanesulfonic acid sodium salt | 135 mmol, 49.0 g | [Na+].OC(S(=O)(=O)[O-])C1=CC=C(C=C1)C(=O)N1CCN(CC1)C(C)C
reactant | NaOH | 1 N, 100 mL | [OH-].[Na+]
solvent | H2O | 490 mL | O | H2O
product | 4-(4-Isopropyl-piperazine-1-carbonyl)-benzaldehyde | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=O)C=C1 | C15H20N2O2
